US04370341
A suspension of N-[7-(dipropylamino)-5,6,7,8-tetrahydro-2-naphthalenyl]-acetamide hydrobromide (3.0 g, 8.1 mmoles) in water was treated in 1N sodium hydroxide (100 ml) and the resulting free base was extracted in benzene. The solvent was evaporated and the residue was heated at reflux in 2N hydrochloric acid (37 ml) for 2 hr. After cooling, the solution was basified with 1N sodium hydroxide and extracted three times with benzene. The organic extracts were dried (MgSO4) and concentrated to afford a red oil (1.76 g) of 1,2,3,4-tetrahydro-N2, N2 -dipropyl-2,7-naphthalenediamine: NMR (CDCl3) δ 0.85 (t, 6H), 1.42 (m, 6H), 2.42 (t, 4H), 2.70 (m, 4H), 6.35 (m, 2H) and 6.80 (d, 1H). The di-(Z)-2-butenedioate salt was prepared in acetone and diethyl ether, and crystallized from methanol-diethyl ether: mp 124°-126° C. and Anal. Calcd for C 16 H26N2.2C4H4O2 : C, 60.23%; H, 7.16%, N, 5.85%; and Found: C, 60.45%; H, 7.21%; N, 5.88%.

reactant | N-[7-(dipropylamino)-5,6,7,8-tetrahydro-2-naphthalenyl]-acetamide hydrobromide | 8.1 mmoles, 3.0 g | Br.C(CC)N(C1CCC=2C=CC(=CC2C1)NC(C)=O)CCC
solvent | water | O | H2O
solvent | sodium hydroxide | 1N, 100 ml | [OH-].[Na+]
product | 1,2,3,4-tetrahydro-N2, N2 -dipropyl-2,7-naphthalenediamine | 1.76 g | C(CC)N(C1CC2=CC(=CC=C2CC1)N)CCC | C16H26N2
